US06218128B1
A heavy-walled screw cap tube was charged with 3-methyl-2-butenoic acid (13.86 g. 138.4 mmol), 4-methoxy thiophenol (20.0 g. 138.4 mmol), and piperidine (3.45 g. 41.6 mmol). This mixture was heated to 05° C. for 32 hours, cooled to room temperature and dissolved in EtOAc (700 mL). The resulting solution was washed with 1M aqueous HCl, H2O, and saturated aqueous NaCl before being dried over Na2SO4. Concentration of the dry solution under reduced pressure afforded an oil which upon standing in the freezer provided a crystalline solid. 3-(4-methoxy-phenylsulfanyl)3-methyl-butyric acid was isolated using a pentane wash as pale-yellow crystals (27.33 g. 82%). 1H NMR (300 MHz, CDCl3 δ: 7.48 (2H, d, J=9.0 Hz), 6.89 (2H, d, J=8.9 Hz), 3.83 (3H, s), 2.54 (2H, s).1.40 (6H, s).

reactant | 3-methyl-2-butenoic acid | 138.4 mmol, 13.86 g | CC(=CC(=O)O)C | C5H8O2
reactant | 4-methoxy thiophenol | 138.4 mmol, 20.0 g | COC1=CC=C(C=C1)S | C7H8OS
reactant | piperidine | 41.6 mmol, 3.45 g | N1CCCCC1 | C5H11N
solvent | EtOAc | 700 mL | CCOC(=O)C | C4H8O2
product | 3-(4-methoxy-phenylsulfanyl)3-methyl-butyric acid | COC1=CC=C(C=C1)SC(CC(=O)O)(C)C | C12H16O3S
